### PR TITLE
[Merged by Bors] - feat(Algebra/Module/SpanRank): add comparing lemmas for span rank

### PR DESCRIPTION
**Pull request by sun123zxy**
---

Split from PR #33247

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 1]
```diff
@@ -257,21 +257,102 @@ end Submodule
...
+lemma spanRank_le_spanRank_of_map_eq {σ : R →+* S} [RingHomSurjective σ]
+  (f : M →ₛₗ[σ] N) (h_map : map f M₁ = N₁) : N₁.spanRank ≤ M₁.spanRank := by
+  rcases exists_span_set_card_eq_spanRank M₁ with ⟨s, hscard, hsspan⟩
+  rw [FG.spanRank_le_iff_exists_span_set_card_le]
+  use f '' s
+  constructor
+  · rw [← hscard]; exact Cardinal.mk_image_le
+  · rw [span_image, hsspan, h_map]
+
+lemma spanRank_le_spanRank_of_range_eq {σ : R →+* S} [RingHomSurjective σ]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/SpanRank.lean]: If you prove these in the other order, this one can be proved more quickly as
```
  refine spanRank_le_spanRank_of_range_eq (f := f.comp M₁.subtype) ?_
  rw [LinearMap.range_comp, range_subtype, h_map]
```

**Review by erdOne — COMMENTED** [review]
I would argue that we don't want lemmas that mention linear maps between submodules. 

I think what we want is something like
```lean
lemma spanRank_map_eq {σ : R →+* S} [RingHomSurjective σ]
    (f : M →ₛₗ[σ] N) (hf : Function.Injective f) (p : Submodule R M) :
    (p.map f).spanRank = p.spanRank := by
  refine (spanRank_map_le f p).antisymm ?_
  obtain ⟨s, hs, e⟩ := (p.map f).exists_span_set_card_eq_spanRank
  obtain ⟨s, rfl⟩ : ∃ y, f '' y = s := Set.subset_range_iff_exists_image_eq.mp
    ((subset_span.trans e.le).trans LinearMap.map_le_range)
  obtain rfl : span R s = p := by simpa [(map_injective_of_injective hf).eq_iff] using e
  grw [← hs, spanRank_span_le_card, Cardinal.mk_image_eq hf]

lemma spanRank_range_le {σ : R →+* S} [RingHomSurjective σ]
    (f : M →ₛₗ[σ] N) : (LinearMap.range f).spanRank ≤ (⊤ : Submodule R M).spanRank := by
  simpa using spanRank_map_le f ⊤

@[simp]
lemma spanRank_top_eq_spanRank (p : Submodule R M) :
    (⊤ : Submodule R p).spanRank = p.spanRank := by
  simpa using (spanRank_map_eq _ p.subtype_injective ⊤).symm
```
And then for example if you really want `spanRank_le_spanRank_of_range_eq` you can get it via `simpa [*] using spanRank_range_le f`, which I argue you can just do inline.

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 2]
```diff
@@ -257,21 +257,98 @@ end Submodule
...
+    constructor
+    · rw [hscard]
+    · rw [← hsspan, ← span_coe_eq_restrictScalars,
+        coe_span_eq_span_of_surjective S R <| RingHom.surjective (algebraMap S R)]
+      simp
+  · let f : M₁.restrictScalars S →ₛₗ[algebraMap S R] M₁ := {
+      AddEquiv.refl M₁ with
+      map_smul' := by simp
+    }
+    apply spanRank_le_spanRank_of_surjective f Function.surjective_id
```
Comment (erdOne) [inline Mathlib/Algebra/Module/SpanRank.lean]: This might be a better approach:
```
variable {R S : Type*} {M : Type u} [CommSemiring R] [Semiring S] [AddCommMonoid M]
  [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]

lemma le_spanRank_restrictScalars
    (N : Submodule S M) : N.spanRank ≤ (N.restrictScalars R).spanRank := by
  obtain ⟨s, hs, e⟩ := (N.restrictScalars R).exists_span_set_card_eq_spanRank
  obtain rfl : span S s = N :=
    le_antisymm (span_le.mpr (span_le.mp e.le:)) (e.ge.trans (span_le_restrictScalars R S s))
  grw [← hs, spanRank_span_le_card]

lemma spanRank_restrictScalars_eq (H : Function.Surjective (algebraMap R S))
    (N : Submodule S M) : (N.restrictScalars R).spanRank = N.spanRank := by
  refine N.le_spanRank_restrictScalars.antisymm' ?_
  obtain ⟨s, hs, rfl⟩ := N.exists_span_set_card_eq_spanRank
  grw [restrictScalars_span R S H s, ← hs, spanRank_span_le_card]
```

**Comment by sun123zxy** [comment]
> I would argue that we don't want lemmas that mention linear maps between submodules.
> 
> I think what we want is something like
> 
> ```lean
> lemma spanRank_map_eq {σ : R →+* S} [RingHomSurjective σ]
>     (f : M →ₛₗ[σ] N) (hf : Function.Injective f) (p : Submodule R M) :
>     (p.map f).spanRank = p.spanRank := by
>   refine (spanRank_map_le f p).antisymm ?_
>   obtain ⟨s, hs, e⟩ := (p.map f).exists_span_set_card_eq_spanRank
>   obtain ⟨s, rfl⟩ : ∃ y, f '' y = s := Set.subset_range_iff_exists_image_eq.mp
>     ((subset_span.trans e.le).trans LinearMap.map_le_range)
>   obtain rfl : span R s = p := by simpa [(map_injective_of_injective hf).eq_iff] using e
>   grw [← hs, spanRank_span_le_card, Cardinal.mk_image_eq hf]
> 
> lemma spanRank_range_le {σ : R →+* S} [RingHomSurjective σ]
>     (f : M →ₛₗ[σ] N) : (LinearMap.range f).spanRank ≤ (⊤ : Submodule R M).spanRank := by
>   simpa using spanRank_map_le f ⊤
> 
> @[simp]
> lemma spanRank_top_eq_spanRank (p : Submodule R M) :
>     (⊤ : Submodule R p).spanRank = p.spanRank := by
>   simpa using (spanRank_map_eq _ p.subtype_injective ⊤).symm
> ```
> 
> And then for example if you really want `spanRank_le_spanRank_of_range_eq` you can get it via `simpa [*] using spanRank_range_le f`, which I argue you can just do inline.

If so, I think I'll apply these changes, remove `spanRank_le_spanRank_of_range_eq`, `spanRank_le_spanRank_of_map_eq` but keep `spanRank_le_spanRank_of_surjective` and the equiv statements. Does this look good to you?

**Comment by sun123zxy** [comment]
Or to remove all of them? In that case, to prove any span rank comparing statements with a linear map between submodules, we can do `←spanRank_top_eq_spanRank` twice to reduce to the ordinary case. I'm not sure if this is convenient to do them inline for each subsequent application of them.

**Comment by sun123zxy** [comment]
> The thing is I don't think we would have an equiv between submodules that often. Maybe we could have
> 
> ```
> lemma spanRank_eq_of_equiv'
>     (σ : R →+* S) {σ' : S →+* R} [RingHomInvPair σ σ'] [RingHomInvPair σ' σ]
>     (e : M ≃ₛₗ[σ] N) : (\top : Submodule R M).spanRank = (\top : Submodule R M).spanRank := by
> ```
> 
> If you think it is useful.

OK added. I just realized that synthesis failure can hardly happen when `e` is given, so making `σ` implicit should be safe, and we don't need `≃ₗ` version anymore.

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 3]
```diff
@@ -257,21 +257,70 @@ end Submodule
...
     ⟨m, span_generators p ▸ subset_span hm, h⟩)) (by simp [span_generators])⟩
 
-variable {p} in
-lemma Submodule.spanFinrank_map_le_of_fg (hp : p.FG) : (p.map f).spanFinrank ≤ p.spanFinrank :=
+lemma spanFinrank_map_le_of_fg {σ : R →+* S} [RingHomSurjective σ]
+    (f : M →ₛₗ[σ] N) {p : Submodule R M} (hp : p.FG) : (p.map f).spanFinrank ≤ p.spanFinrank :=
   (Cardinal.toNat_le_iff_le_of_lt_aleph0 (spanRank_finite_iff_fg.mpr (FG.map f hp))
     (spanRank_finite_iff_fg.mpr hp)).2 (p.spanRank_map_le f)
 
+lemma spanRank_map_eq {σ : R →+* S} [RingHomSurjective σ]
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/SpanRank.lean]:
```suggestion
lemma spanRank_map_eq_of_injective {σ : R →+* S} [RingHomSurjective σ]
```

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 4]
```diff
@@ -257,21 +257,70 @@ end Submodule
...
+    (p.map f).spanRank = p.spanRank := by
+  refine (spanRank_map_le f p).antisymm ?_
+  obtain ⟨s, hs, e⟩ := (p.map f).exists_span_set_card_eq_spanRank
+  obtain ⟨s, rfl⟩ : ∃ y, f '' y = s := Set.subset_range_iff_exists_image_eq.mp
+    ((subset_span.trans e.le).trans LinearMap.map_le_range)
+  obtain rfl : span R s = p := by simpa [(map_injective_of_injective hf).eq_iff] using e
+  grw [← hs, spanRank_span_le_card, Cardinal.mk_image_eq hf]
+
+lemma spanRank_range_le {σ : R →+* S} [RingHomSurjective σ]
+    (f : M →ₛₗ[σ] N) : (LinearMap.range f).spanRank ≤ (⊤ : Submodule R M).spanRank := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/SpanRank.lean]:
```suggestion
lemma spanRank_range_le {σ : R →+* S} [RingHomSurjective σ] (f : M →ₛₗ[σ] N) :
    (LinearMap.range f).spanRank ≤ (⊤ : Submodule R M).spanRank := by
```

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 5]
```diff
@@ -257,21 +257,70 @@ end Submodule
...
+  simpa using spanRank_map_le f ⊤
+
+@[simp]
+lemma spanRank_top_eq_spanRank (p : Submodule R M) :
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/SpanRank.lean]:
```suggestion
lemma spanRank_top (p : Submodule R M) :
```

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 6]
```diff
@@ -257,21 +257,70 @@ end Submodule
...
+
+end Semilinear
+
+section RestrictScalars
+
+variable {R S : Type*} {M : Type u} [CommSemiring R] [Semiring S] [AddCommMonoid M]
+  [Algebra R S] [Module R M] [Module S M] [IsScalarTower R S M]
+
+lemma le_spanRank_restrictScalars
+    (N : Submodule S M) : N.spanRank ≤ (N.restrictScalars R).spanRank := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/SpanRank.lean]:
```suggestion
lemma le_spanRank_restrictScalars (N : Submodule S M) :
    N.spanRank ≤ (N.restrictScalars R).spanRank := by
```

File: Mathlib/Algebra/Module/SpanRank.lean [hunk 7]
```diff
@@ -257,21 +257,70 @@ end Submodule
...
+
+section Semilinear
 
-variable {R : Type*} {M N : Type u} [Semiring R] [AddCommMonoid M] [Module R M] [AddCommMonoid N]
-  [Module R N] (f : M →ₗ[R] N) (p : Submodule R M)
+variable {R S : Type*} {M N : Type u} [Semiring R] [Semiring S]
+  [AddCommMonoid M] [Module R M] [AddCommMonoid N] [Module S N]
 
-lemma Submodule.spanRank_map_le : (p.map f).spanRank ≤ p.spanRank := by
+lemma spanRank_map_le {σ : R →+* S} [RingHomSurjective σ]
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/SpanRank.lean]: What do you think of making `{σ : R →+* S}` part of the `variable` line above?

Comment (sun123zxy) [reply Mathlib/Algebra/Module/SpanRank.lean]: OK, I tried to move `σ` into `variable` line and updated the spacing.

**Review by erdOne — APPROVED** [review]
Sorry I totally forgot about this PR.
Thanks!
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
